US05049671
(±)-cis-4-(2-Amino-6-(trans-2-phenylcyclopropylamino)-9H-purin-9-yl)-2-cyclopentene-1-methanol
A solution of trans-2-phenyl cyclopropylamine.HCl (1.02 g, 6 mmol) in methanol (10 ml) was stirred with basic ion exchange resin for 5 minutes. The resin was filtered off and the filtrate was concentrated to a colorless oil. To this was added (±)-(cis)-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol (0.549 g, 2 mmol). The resulting solution was stirred in a Parr bomb at 80° C. for 12 hours 1 N NaOH 12 ml) was added and the solvent evaporated. The residual oil was chromatographed on silica gel. Title compound was eluted with 5% methanol-chloroform to give tan crystals after crystallization from acetonitrile-methanol (0.221 g, 30%), m.p.=188-190° C.

reactant | trans-2-phenyl cyclopropylamine | C1(=CC=CC=C1)[C@H]1[C@@H](C1)N | C9H11N
reactant | HCl | 6 mmol, 1.02 g | Cl | ClH
reactant | (±)-(cis)-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol | 2 mmol, 0.549 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)Cl | C11H12ClN5O
reactant | NaOH | 1 N, 12 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (±)-cis-4-(2-Amino-6-(trans-2-phenylcyclopropylamino)-9H-purin-9-yl)-2-cyclopentene-1-methanol | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)N[C@H]1[C@@H](C1)C1=CC=CC=C1 | C20H22N6O
